US07919498B2
Prepared according to Procedure J using 1-((8-chloro-2-(2-chlorophenyl)quinolin-3-yl)methyl)-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.100 g, 0.18 mmol), 3-(hydroxyphenyl)boronic acid (0.050 g, 0.37 mmol, 2 eq), tetrakis(triphenylphosphine)palladium (0.021 g, 0.018 mmol, 0.1 eq) and 2M aq sodium carbonate (0.54 mL, 1.08 mmol, 6 eq) in DMF (1 mL). 3-(4-Amino-1-((8-chloro-2-(2-chlorophenyl)quinolin-3-yl)methyl)-1H-pyrazolo[3,4-d]pyrimidin-3-yl)phenol [PI3Kδ IC50=14 nM] was obtained after purification as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 9.52 (1 H, s), 8.31 (1 H, s), 7.91-8.00 (2 H, m), 7.86 (1 H, dd, J=7.4, 1.2 Hz), 7.52 (1 H, t, J=7.8 Hz), 7.35 (1 H, d, J=8.2 Hz), 7.07-7.28 (3 H, m), 6.97-7.05 (1 H, m), 6.78-6.93 (2 H, m), 6.70 (1 H, dd, J=8.2, 1.6 Hz), 5.36-5.57 (2 H, m) Mass Spectrum (ESI) m/e=513.1 and 515.0 (M+1).

reactant | 1-((8-chloro-2-(2-chlorophenyl)quinolin-3-yl)methyl)-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.18 mmol, 0.100 g | ClC=1C=CC=C2C=C(C(=NC12)C1=C(C=CC=C1)Cl)CN1N=C(C=2C1=NC=NC2N)I | C21H13Cl2IN6
reactant | sodium carbonate | 1.08 mmol, 2M, 0.54 mL, 6 eq | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium | 0.018 mmol, 0.021 g, 0.1 eq | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(4-Amino-1-((8-chloro-2-(2-chlorophenyl)quinolin-3-yl)methyl)-1H-pyrazolo[3,4-d]pyrimidin-3-yl)phenol | NC1=C2C(=NC=N1)N(N=C2C=2C=C(C=CC2)O)CC=2C(=NC1=C(C=CC=C1C2)Cl)C2=C(C=CC=C2)Cl | C27H18Cl2N6O
